US05770595
To a solution of oxalyl chloride (0.036 ml, 0.41 mmol) in dichloromethane (3 ml) at -78° C. was added dimethylsulfoxide (0.063 ml, 0.82 mmol), and over 5 minutes, 1-(16-hydroxyheptadecyl)-3,7-dimethylxanthine (0.15 g, 0.35 mmol) in dichlorornethane (2 ml). The resulting reaction mixture was stirred at -78° C. for 30 minutes, and after the addition of triethylamine (0.23 ml, 1.64 mmol), was allowed to warm to 25° C. olier 30 minutes. Hydrochloric acid (1.0M, 10 ml) and dichloromethane (5 ml) were added to the warmed reaction mixture. The organic phase was separated and the aqueous phase was washed with dichlorornethane (10 ml). The organic portions were combined, dried over magnesium sulfate and evaporated to obtain a slightly yellow solid. The yellow solid, purified by chromatography (silica, ethyl acetate/hexane) resulted in 0.070 g of 1-(16-oxoheptadecyl)-3,7-dimethylxanthine as a white solid (47% yield).

reactant | oxalyl chloride | 0.41 mmol, 0.036 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.82 mmol, 0.063 ml | CS(=O)C | C2H6OS
reactant | 1-(16-hydroxyheptadecyl)-3,7-dimethylxanthine | 0.35 mmol, 0.15 g | OC(CCCCCCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C24H42N4O3
reactant | triethylamine | 1.64 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | Hydrochloric acid | 1.0M, 10 ml | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichlorornethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(16-oxoheptadecyl)-3,7-dimethylxanthine | 0.070 g, 47% yield | O=C(CCCCCCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C24H40N4O3
